US05559113
2-{[2-(1H-Imidazol-4-yl)ethyl]thio}-1H-imidazole
183 mg (1.1 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride, 110 mg (1 mmol) of 2-mercapto-1H-imidazole and 200 mg (3.26 mmol) of solid potassium hydroxide are brought to reflux in 10ml of 2-propanol for 4 h. The mixture is then evaporated and the semi-solid residue is chromatographed through silica gel, using a chloroform/methanol (5/1) mixture. The resulting product is treated with oxalic acid in ethanol to provide the title compound in the form of an oxalate salt, M.p.: 224°-226° C.

reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.1 mmol, 183 mg | Cl.ClCCC=1N=CNC1
reactant | 2-mercapto-1H-imidazole | 1 mmol, 110 mg | SC=1NC=CN1 | C3H4N2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | 10ml | CC(C)O | C3H8O
product | 2-{[2-(1H-Imidazol-4-yl)ethyl]thio}-1H-imidazole | N1C=NC(=C1)CCSC=1NC=CN1 | C8H10N4S
